$ Spice netlist generated by v2lvs
$ v2019.1_18.11    Thu Jan 10 13:52:35 PST 2019
.INCLUDE "inputs/adk/stdcells.spi" 
.INCLUDE "source.added" 
*.BUSDELIMITER [ 

.SUBCKT ringosc va vb vc vbg VSS VDD 
XM17 VDD VDD va VSS VDD sky130_asc_pfet_01v8_lvt_12 
XM1 vc VDD va VSS VDD sky130_asc_pfet_01v8_lvt_60 
XM2 vc VDD vb VSS VDD sky130_asc_pfet_01v8_lvt_60 
XM3 vc VDD vbg VSS VDD sky130_asc_pfet_01v8_lvt_60 
.ENDS
